US08912176B2
Preparation of 1-({1-[(6-methylpyridin-3-yl)carbonyl]azetidin-3-yl}carbonyl)-1,4-diazepane
To a stirred solution of tert-butyl 4-({1-[(6-methylpyridin-3-yl)carbonyl]azetidin-3-yl}carbonyl)-1,4-diazepane-1-carboxylate (455 mg, 1.13 mmol) in DCM (10 mL) was added TFA (440 μL, 5.65 mmol) and stirred at room temperature for 24 hours. The reaction was re-charged with TFA (0.5 mL, 6.5 mmol) and the reaction stirred for a further 5 hours until consumption of starting materials seen by TLC. Volatiles were removed at reduced pressure and the crude product shaken with Ambersep 900-OH resin in DCM (20 ml) for 2 hours. The resin was removed by filtration and the washings concentrated at reduced pressure to give the title compound (302 mg, 89%).

reactant | tert-butyl 4-({1-[(6-methylpyridin-3-yl)carbonyl]azetidin-3-yl}carbonyl)-1,4-diazepane-1-carboxylate | 1.13 mmol, 455 mg | CC1=CC=C(C=N1)C(=O)N1CC(C1)C(=O)N1CCN(CCC1)C(=O)OC(C)(C)C | C21H30N4O4
reactant | TFA | 5.65 mmol, 440 μL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFA | 6.5 mmol, 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-({1-[(6-methylpyridin-3-yl)carbonyl]azetidin-3-yl}carbonyl)-1,4-diazepane | 302 mg, 89% | CC1=CC=C(C=N1)C(=O)N1CC(C1)C(=O)N1CCNCCC1 | C16H22N4O2
